data/pmechdb/original/mc_train_fold0/raw/train.txt
C([CH2:20][O:21]S(=O)Cl)C(=O)Cl.[Cl-:10]>>C([CH2:20][Cl:10])C(=O)Cl.[O-:21]S(=O)Cl 10=20;20,21=21
[H:20][OH:21].C[O-].C1=CC=C(C=C1)C(C2=CC=CC=C2)(C3=CC=CC=C3)[O-:10].[Mg+]Br>>[H:20][O:10]C(C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.C[O-].[OH-:21].[Mg+]Br 10=20;20,21=21
[H:20][CH:21](C#N)[C:22](=[OH+:23])CC(C)(C)C.C1CC[NH:10]CC1.CC1=CC=C(C=C1)C=[N+]2CCCCC2>>[H:20][NH+:10]1CCCCC1.CC(C)(C)C[C:22](=[CH:21]C#N)[OH:23].CC1=CC=C(C=C1)C=[N+]2CCCCC2 10=20;22,23=23;20,21=21,22
C[C:20](=[S+:21]CC[SH:10])C>>C[C:20]1([SH+:10]CC[S:21]1)C 10=20;20,21=21
CCO[P:10](C)(C)(C)[Br:11]>>CCO[P+:10](C)(C)C.[Br-:11] 10,11=11
CCCC[O-:10].CCCCO[Ti-](OCCCC)(OCCCC)(OCCCC)OC(CC(=CC(=[O+][Si:20](C)(C)C)OC)C)C=CC=CI>>CCCC[O:10][Si-:20](C)(C)(C)[O+]=C(C=C(C)CC(C=CC=CI)O[Ti-](OCCCC)(OCCCC)(OCCCC)OCCCC)OC 10=20,
COC1=CC2=C(C=C1)C(C([C:10]2(C3=CC=CC=C3)[OH2+:11])CCC#N)C(=O)OC.CS(=O)(=O)[O-]>>COC1=CC2=C(C=C1)C(C([C+:10]2C3=CC=CC=C3)CCC#N)C(=O)OC.[OH2:11].CS(=O)(=O)[O-] 10,11=11
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)OCC)Br.[Br-:10]>>[H:20][Br:10].CCO[C:24]1=[CH:23][CH:22]=[C:21](C=C1)Br 10=20;20,21=21,22;22,23=23,24
CC=CCO[S:20]([O-:10])(Cl)[Cl:21]>>CC=CCO[S:20](=[O:10])Cl.[Cl-:21] 10=20;20,21=21
C1CCO[C:20](=[OH+:21])C1.[OH2:10]>>C1CCO[C:20](C1)([OH2+:10])[OH:21] 10=20;20,21=21
CC[NH:10]CC.[N:20]#[O+:21]>>CC[NH+:10](CC)[N:20]=[O:21] 10=20;20,21=21
CS[CH+:20][NH-:10]>>CS[CH:20]=[NH:10] 10=20,
CC(=[C:20]=[N+:21](C)S(=O)(=O)C)C(=C(C)C(=[N:10][Si](C)(C)C)C)N(C)S(=O)(=O)C.C(F)(F)(F)S(=O)(=O)[O-]>>CC1=C(C(=[C:20]([N+:10](=C1C)[Si](C)(C)C)[N:21](C)S(=O)(=O)C)C)N(C)S(=O)(=O)C.C(F)(F)(F)S(=O)(=O)[O-] 10=20;20,21=21
[CH3:10][Mg:11]I.C[P+:20]([Mg]I)(Cl)Cl>>C[P:20]([CH3:10])([Mg]I)(Cl)Cl.[Mg+:11]I 10,11=10,20
CO[C:20](=[OH+:21])OCC[OH:10]>>CO[C:20]1([OH+:10]CCO1)[OH:21] 10=20;20,21=21
[H:20][O:21]C(=CC(=O)OC)CC1=CC=CC=C1.CC(C)[N-:10]C(C)C>>[H:20][N:10](C(C)C)C(C)C.COC(=O)C=C(CC1=CC=CC=C1)[O-:21] 10=20;20,21=21
COC1=C2C3=C(CC4C5(C3(CCN4CCC6=CC=CC=C6)C(O2)[C:20](=[O:21])CC5)O)C=C1.N[NH2:10].C(COCCO)O.O>>COC1=C2C3=C(CC4C5(C3(CCN4CCC6=CC=CC=C6)C(O2)[C:20](CC5)([NH2+:10]N)[O-:21])O)C=C1.C(COCCO)O.O 10=20;20,21=21
[H:20][CH:21]([CH:22]=[O:23])C(C1=CC=CC=C1)O.[OH-:10]>>[H:20][OH:10].C1=CC=C(C=C1)C([CH:21]=[CH:22][O-:23])O 10=20;22,23=23;20,21=21,22
[H:20][CH:21]([C:22](=[O:23])OCCC)SC1=[N+]2C(COC2(CC(C1)CCC)C)C3=CC=CC=C3.CCCC1CC(=[N+]2C(COC2(C1)C)C3=CC=CC=C3)[S-:10].[Br-]>>[H:20][S:10]C1=[N+]2C(COC2(CC(C1)CCC)C)C3=CC=CC=C3.CCCC1CC(=[N+]2C(COC2(C1)C)C3=CC=CC=C3)S[CH:21]=[C:22]([O-:23])OCCC.[Br-] 10=20;22,23=23;20,21=21,22
[H:20][OH2+:21].CC(CC[O-:10])C=C>>[H:20][O:10]CCC(C)C=C.[OH2:21] 10=20;20,21=21
C[C:11](=[CH2:10])[N:12]1CCCC1.[CH2:20]=[CH:21][CH:22]=[O:23]>>C[C:11](=[N+:12]1CCCC1)[CH2:10][CH2:20][CH:21]=[CH:22][O-:23] 10,11=10,20;12=11;22,23=23;20,21=21,22
C[S:20][S:21]C.[I-:10]>>C[S-:21].C[S:20][I:10] 10=20;20,21=21
CS[C:20](=[CH:21][C:22](=[O:23])C1=CC=CC=C1)[S+](C)C.C#CC[O:10][K]>>CS[C:20]([CH:21]=[C:22](C1=CC=CC=C1)[O-:23])([O+:10](CC#C)[K])[S+](C)C 10=20;22,23=23;20,21=21,22
[H:20][CH2:21][S+](C)C.C[O-:10]>>[H:20][O:10]C.C[S+](C)[CH2-:21] 10=20;20,21=21
CCCCCC1=CC(=CC(=C1)O)[OH:10].CC(=C[CH2+:20])C.CC1=CC=C(C=C1)S(=O)(=O)[O-].O>>CCCCCC1=CC(=CC(=C1)O)[OH+:10][CH2:20]C=C(C)C.CC1=CC=C(C=C1)S(=O)(=O)[O-].O 10=20,
C1=CC=[N+](C(=C1)C[S:20][OH2+:21])C2=[N:10]C3=C(N2)C=CC=C3.CC(=O)[O-]>>C1C2=CC=CC=[N+]2C3=[N+:10]([S:20]1)C4=C(N3)C=CC=C4.[OH2:21].CC(=O)[O-] 10=20;20,21=21
[CH:20]([OH2+:21])([OH:10])S>>[CH:20](=[OH+:10])S.[OH2:21] 10=20;20,21=21
C[S+:20](C)SC1=CC=CC=C1.[C-:10]#N>>C[S:20](C)([C:10]#N)SC1=CC=CC=C1 10=20,
C[OH:10].CO[CH:20]=[O+:21]C.[Cl-]>>C[OH+:10][CH:20](OC)[O:21]C.[Cl-] 10=20;20,21=21
[H:20][O+:21]1CCOC1(C)C2CCC3C2(CCC4C3CC=C5C4(CCC(C5)O)C)C.C1=CC=[N:10]C=C1.O.[Cl-]>>CC12CCC3C(C1CCC2C4(OCC[O:21]4)C)CC=C5C3(CCC(C5)O)C.[H:20][N+:10]1=CC=CC=C1.O.[Cl-] 10=20;20,21=21
CCO[C:11](=[C:10](CCC[CH2:20][Br:21])C(=O)OCC)[O-:12]>>CCOC(=O)[C:10]1(CCC[CH2:20]1)[C:11](=[O:12])OCC.[Br-:21] 10,11=10,20;20,21=21;12=11
[Li+:20].CCCC[Sn-:11](CCCC)(CCCC)(CCCC)[CH:10](OCC)OCC>>[Li:20][CH:10](OCC)OCC.CCCC[Sn:11](CCCC)(CCCC)CCCC 10,11=10,20
COC(=O)C1CC[C:20](=[OH+:21])CC1.C(CO)[OH:10]>>COC(=O)C1CC[C:20](CC1)([OH:21])[OH+:10]CCO 10=20;20,21=21
[H:20][S:21]C.[OH-:10]>>[H:20][OH:10].C[S-:21] 10=20;20,21=21
[H:20][C:21](=[C:22](C)[Br:23])C.[NH2-:10]>>C[C:21]#[C:22]C.[Br-:23].[H:20][NH2:10] 10=20;22,23=23;20,21=21,22
[H:20][N+:21]1=CC=CC=C1.C1OC2=CC(=C(C=C2O1)Br)C=[O:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].C(CO)O>>[H:20][O+:10]=CC1=C(C=C2C(=C1)OCO2)Br.C1=CC=[N:21]C=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].C(CO)O 10=20;20,21=21
[H:20][NH2+:21]CC=C.COC1=CC=C(C=C1)C(NCC=C)[O-:10]>>[H:20][O:10]C(C1=CC=C(C=C1)OC)NCC=C.C=CC[NH2:21] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CN1)N=NC2=CC=CC=C2.[Cl-:10]>>[H:20][Cl:10].C1=CC=C(C=C1)N=N[C:21]2=[CH:22]C=CN2 10=20;20,21=21,22
CCC[C:20](=[O:21])OCC.[OH-:10]>>CCC[C:20]([OH:10])([O-:21])OCC 10=20;20,21=21
[H:20][C:21]#CC1=CC=CC=C1.[H:10][Na:11]>>[C-:21]#CC1=CC=CC=C1.[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
